US06780855B2
526 mg of 11β-fluoro-3-hydroxy-7α-[5-(methyl-amino)-pentyl]-estra-1,3,5(10)-trien-17-one and 127 mg of iodononane are dissolved in 5 ml of anhydrous DMF and stirred for 4 hours at a bath temperature of 100° C. For working-up, the batch is added to semi-saturated sodium bicarbonate solution, extracted 3 times with methylene chloride, dried on magnesium sulfate and concentrated by evaporation in a vacuum. Preparative column chromatography yields 85 mg of 11β-fluoro-3-hydroxy-7α-{5-[methyl-nonyl-amino]-pentyl}-estra-1,3,5(10)-trien-17-one as a foam.

reactant | 11β-fluoro-3-hydroxy-7α-[5-(methyl-amino)-pentyl]-estra-1,3,5(10)-trien-17-one | 526 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCNC)O | C24H34FNO2
reactant | iodononane | 127 mg | ICCCCCCCCC | C9H19I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 11β-fluoro-3-hydroxy-7α-{5-[methyl-nonyl-amino]-pentyl}-estra-1,3,5(10)-trien-17-one | 85 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CCCCCCCCC)C)O | C33H52FNO2
